### PR TITLE
[Merged by Bors] - chore(Dynamics): general clean-up

### PR DESCRIPTION
**Pull request by mcdoll**
We do a bunch of clean-up:

- move the type declarations to the top of the file
- remove `[ContinuousAdd]` assumption from `Flow`
- use sections to split between `AddMonoid` and `AddGroup` assumption (was done with opening and closing the namespace), also add new sections `AddZero` and `SubtractionCommMonoid`
- move definitions and theorem into the correct section
- add `@[simp]` lemmas for fully applied defs
- use `fun_prop`
- minor clean-up (whitespaces, unnecessary coercion arrows, etc)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Dynamics/Flow.lean [hunk 1]
```diff
@@ -148,18 +158,23 @@ def restrict {s : Set α} (h : IsInvariant ϕ s) : Flow τ (↥s) where
...
-  add_vadd  := ϕ.map_add'
+  vadd := ϕ
+  add_vadd := ϕ.map_add'
   zero_vadd := ϕ.map_zero'
 
 /-- Restrict a flow by `τ` to a flow by an additive submonoid of `τ`. -/
 def restrictAddSubmonoid (S : AddSubmonoid τ) : Flow S α where
   toFun t x := ϕ t x
-  cont' := ϕ.continuous (continuous_subtype_val.comp continuous_fst) continuous_snd
+  cont' := by fun_prop
```
Comment (grunweg) [inline Mathlib/Dynamics/Flow.lean:177]: What do you think about making this a default param? (Can happen in a follow-up.) I may even have an old PR trying this, but help resurrecting it would certainly be welcome!

File: Mathlib/Dynamics/Flow.lean [hunk 2]
```diff
@@ -249,39 +264,51 @@ theorem IsFactorOf.trans (h₁ : IsFactorOf ϕ ψ) (h₂ : IsFactorOf ψ χ) : I
...
+
+variable [AddGroup τ] (ϕ : Flow τ α)
 
-variable {τ : Type*} [AddCommGroup τ] [TopologicalSpace τ] [IsTopologicalAddGroup τ]
-  {α : Type*} [TopologicalSpace α] (ϕ : Flow τ α)
+/-- The map `ϕ t` as a homeomorphism. -/
+def toHomeomorph (t : τ) : (α ≃ₜ α) where
+  toFun := ϕ t
+  invFun := ϕ (-t)
+  left_inv x := by rw [← map_add, neg_add_cancel, map_zero_apply]
```
Comment (grunweg) [inline Mathlib/Dynamics/Flow.lean]: Can `simp` do this? (I haven't thought about this question much, so pardon if it's a naive one.)

Same for `right_inv`.

**Review by grunweg — COMMENTED** [review]
Thanks, looks great to me!
bors d+

File: Mathlib/Dynamics/Flow.lean (hunk 1 above)
Comment (mcdoll) [reply Mathlib/Dynamics/Flow.lean:177]: Currently I think there is not a lot to be gained by that, but I will keep it in mind.

**Comment by mcdoll** [comment]
bors merge
